US07291616B2
{4-[4-(5-Chloro-2-methyl-phenyl)-6-methylamino-[1,3,5]-triazin-2-ylamino]-phenyl}-methanol
The reaction of 2,4-dichloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazine and 4-aminobenzyl alcohol using the method described in Example 67 and using methylamine in place of ammonia provided the title compound (81% yield). 1H NMR (acetone-d6) δ 8.75, 8.62 (2br s, 1H), 8.02-7.82 (m, 3H), 7.41-7.28 (m, 4H), 6.83 (br s, 1H), 4.62-4.59 (m, 2H), 4.10-4.05 (m, 1H), 3.05, 3.01 (2 s, 3H), 2.67, 2.59 (2 s, 3H).

reactant | 2,4-dichloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazine | ClC1=NC(=NC(=N1)Cl)C1=C(C=CC(=C1)Cl)C | C10H6Cl3N3
reactant | 4-aminobenzyl alcohol | NC1=CC=C(CO)C=C1 | C7H9NO
reactant | methylamine | CN | CH5N
product | {4-[4-(5-Chloro-2-methyl-phenyl)-6-methylamino-[1,3,5]-triazin-2-ylamino]-phenyl}-methanol | 81% yield | ClC=1C=CC(=C(C1)C1=NC(=NC(=N1)NC)NC1=CC=C(C=C1)CO)C | C18H18ClN5O
